US07652015B2
Treat a room temperature solution of 4-(4-chloro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (0.6 g, 1.9 mmol) in CH2CL2 (4 mL) with HCl (4 N solution in dioxane, 1.5 mL, 5.9 mmol) resulting in a slight exotherm. Stir the mixture for 3 hours, add additional HCl (4 N solution in dioxane, 1.5 mL, 5.9 mmol), and stir overnight. Concentrate under reduced pressure to afford 1-(4-chloro-pyridin-2-yl)-piperazine hydrochloride, then titurate with Et2O (0.43 g). LCMS ES+(m/z) 198 [M+H]).

reactant | 4-(4-chloro-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.9 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC(=C1)Cl | C14H20ClN3O2
reactant | HCl | 5.9 mmol, 4 N, 1.5 mL | Cl | ClH
reactant | HCl | 5.9 mmol, 4 N, 1.5 mL | Cl | ClH
product | 1-(4-chloro-pyridin-2-yl)-piperazine hydrochloride | Cl.ClC1=CC(=NC=C1)N1CCNCC1 | InChI=1S/C9H12ClN3.ClH/c10-8-1-2-12-9(7-8)13-5-3-11-4-6-13;/h1-2,7,11H,3-6H2;1H
